US07842357B2
5-(4′-Propyl-bicyclohexyl-4-yl)-2-vinyl-tetrahydropyran was synthesized same as example 2 in place of (4-pentylcyclohexyl)acetaldehyde making use of (4′-Propyl-bicyclohexyl-4-yl)acetaldehyde.

reactant | (4-pentylcyclohexyl)acetaldehyde | C(CCCC)C1CCC(CC1)CC=O | C13H24O
reactant | (4′-Propyl-bicyclohexyl-4-yl)acetaldehyde | C(CC)C1CCC(CC1)C1CCC(CC1)CC=O | C17H30O
product | 5-(4′-Propyl-bicyclohexyl-4-yl)-2-vinyl-tetrahydropyran | C(CC)C1CCC(CC1)C1CCC(CC1)C1CCC(OC1)C=C | C22H38O
